US09056874B2
(±)-5-Chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole
To a solution of (±)-5-chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1H-indole (8.95 g, 32 mmol) in CH2Cl2 (150 mL), at 0° C. was added NaOH (2.56 g, 64.0 mmol), followed by triethylbenzylammonium chloride (0.729 g, 3.20 mmol) and TsCl (12.20 g, 64.0 mmol). The mixture was then stirred at room temperature. After 17 h, additional NaOH (1.28 g, 32.0 mmol), and TsCl (6.10 g, 32.0 mmol) were added. The mixture was stirred at room temperature for 1.5 h. The reaction mixture was diluted with H2O, and was vigorously stirred for 1 h. The mixture was diluted with CH2Cl2 and the organic layer was successively washed with H2O and brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave the crude product, which was purified by FCC [heptane/(30% EtOAc in CH2Cl2)=82/18 then 79/21] to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 7.84 (d, J=3.79 Hz, 1H), 7.67 (d, J=8.20 Hz, 1H), 7.59 (d, J=8.59 Hz, 1H), 7.48 (d, J=8.20 Hz, 1H), 7.33 (d, J=8.50 Hz, 1H), 7.13 (s, 1H), 6.97 (d, J=3.79 Hz, 1H), 4.97 (d, J=11.37 Hz, 1H), 4.76 (d, J=11.37 Hz, 1H), 4.61-4.70 (m, 1H), 3.79-3.91 (m, 1H), 3.40-3.52 (m, 1H), 2.53 (s, 3H), 2.36 (s, 3H), 1.58-1.75 (m, 2H), 1.38-1.58 (m, 4H).

reactant | (±)-5-chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1H-indole | 32 mmol, 8.95 g | ClC=1C(=C2C=CNC2=C(C1)C)COC1OCCCC1 | C15H18ClNO2
reactant | NaOH | 64.0 mmol, 2.56 g | [OH-].[Na+]
reactant | TsCl | 64.0 mmol, 12.20 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaOH | 32.0 mmol, 1.28 g | [OH-].[Na+]
reactant | TsCl | 32.0 mmol, 6.10 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 3.20 mmol, 0.729 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | H2O | O | H2O
product | (±)-5-Chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole | ClC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1 | C22H24ClNO4S
